US08258134B2
A solution of 2-[4-(benzotriazol-1-yloxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-propionamide (0.30 g, 0.54 mmol) in acetonitrile (10 mL, 0.055M) was treated with cesium carbonate (0.36 g, 1.10 mmol) and 2-(2-chloro-phenyl)-ethanol (86 μL, 0.65 mmol). The resulting reaction mixture was stirred at 25° C. overnight. The reaction mixture was then heated at 75° C. for 5.5-6 h. At this time, the reaction was partitioned between water and methylene chloride. The organics were dried over sodium sulfate, filtered, rinsed, and concentrated in vacuo. Silica gel column chromatography (AnaLogix 12 g, 50-75% ethyl acetate/hexanes) afforded 2-{4-[2-(2-chloro-phenyl)-ethoxy]-6-oxo-6H-pyridazin-1-yl}-3-cyclopentyl-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-propionamide (114.1 mg, 37%) as a light yellow solid as a mixture of diastereomers.

reactant | 2-[4-(benzotriazol-1-yloxy)-6-oxo-6H-pyridazin-1-yl]-3-cyclopentyl-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-propionamide | 0.54 mmol, 0.30 g | N1(N=NC2=C1C=CC=C2)OC=2C=NN(C(C2)=O)C(C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CC2CCCC2 | C27H32N8O5
reactant | cesium carbonate | 1.10 mmol, 0.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-chloro-phenyl)-ethanol | 0.65 mmol, 86 μL | ClC1=C(C=CC=C1)CCO | C8H9ClO
solvent | acetonitrile | 0.055M, 10 mL | C(C)#N | C2H3N
product | 2-{4-[2-(2-chloro-phenyl)-ethoxy]-6-oxo-6H-pyridazin-1-yl}-3-cyclopentyl-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-propionamide | 114.1 mg, 37% | ClC1=C(C=CC=C1)CCOC=1C=NN(C(C1)=O)C(C(=O)NC1=NN(C=C1)C[C@H]1OC(OC1)(C)C)CC1CCCC1 | C29H36ClN5O5
